US06969716B2
A solution of 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine and 2-(4-chloro-2-fluorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane were coupled together by the method of Example 2 to give 3-(4-chloro-2-fluorophenyl)-5-[4-fluoro-3-(3-fluoro-pyridin-2-yl)phenyl]-[1,2,4]triazine: δH (500 MHz, CDCl3) 7.30-7.35 (2H, m), 7.40-7.46 (2H, m), 7.53-7.61 (1H, m), 8.26 (1H, t, J8.2 Hz), 8.42-8.45 (1H, m), 8.54 (1H, dd, J 2.4, 6.6 Hz), 8.62 (1H, d, J 4.6 Hz), 9.69 (1H, s); m/z (ES+) 399.

reactant | 5-[4-fluoro-3-(3-fluoropyridin-2-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine | FC1=C(C=C(C=C1)C=1N=C(N=NC1)SC)C1=NC=CC=C1F | C15H10F2N4S
reactant | 2-(4-chloro-2-fluorophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | ClC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C12H15BClFO2
product | 3-(4-chloro-2-fluorophenyl)-5-[4-fluoro-3-(3-fluoro-pyridin-2-yl)phenyl]-[1,2,4]triazine | ClC1=CC(=C(C=C1)C=1N=NC=C(N1)C1=CC(=C(C=C1)F)C1=NC=CC=C1F)F | C20H10ClF3N4
